US08536214B2
a) (S)-5-bromo-2,3-dihydro-1H-inden-2-amine((1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate
To a suspension of 5-bromo-2,3-dihydro-1H-inden-2-amine hydrobromide (107 mmol, 31.27 g) and N-methylmorpholine (112 mmol, 12.32 mL, 11.33 g) in methanol (66.6 mL) was heated to 58-62° C. and a solution of ((1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid (107 mmol, 24.79 g) in methanol (53.4 mL) was added over 3 min maintaining internal temp at 60-65° C. The addition funnel was rinsed with MeOH (13.3 mL) and rinsings added to reaction. The mixture was stirred at 60-65° C. for 10 min until a clear solution was obtained. The reaction was then allowed to cool to room temperature and stirred for a total of 4 h. The solids were collected by filtration and washed with a pre-cooled mixture of isopropyl acetate/methanol 2:1 (2×15 mL) followed by water (2×15 mL). The crude product was dried in a vacuum oven at 50° C. overnight to yield (18.03 g) of a fluffy white solid. This was suspended in methanol (130 mL) and heated to reflux for 4 h then allowed to cool to room temperature with stirring over 2 h and stirring continued at room temperature for a further 1 h. Solids were then isolated by filtration and washed with a pre-cooled solution of isopropylacetate/methanol (2:1, 2×18 mL). The colourless solid (13.82 g) was dried in the vacuum oven for 60 h. Refluxing in methanol followed by washing the solid with isopropyl acetate/methanol was repeated until the desired enantiomeric ratio was obtained. (S)-5-bromo-2,3-dihydro-1H-inden-2-amine((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate was obtained as a colourless solid (12.28 g, e.e. 100:0, 25.9%).

reactant | 5-bromo-2,3-dihydro-1H-inden-2-amine hydrobromide | 107 mmol, 31.27 g | Br.BrC=1C=C2CC(CC2=CC1)N
reactant | N-methylmorpholine | 112 mmol, 12.32 mL, 11.33 g | CN1CCOCC1 | C5H11NO
reactant | ((1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid | 107 mmol, 24.79 g | CC1([C@]2(C(C[C@@H]1CC2)=O)CS(=O)(=O)O)C | C10H16O4S
solvent | methanol | 66.6 mL | CO | CH4O
solvent | methanol | 53.4 mL | CO | CH4O
product | (S)-5-bromo-2,3-dihydro-1H-inden-2-amine((1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate | 18.03 g | CC1([C@]2(C(C[C@@H]1CC2)=O)CS(=O)(=O)O)C.BrC=2C=C1C[C@H](CC1=CC2)N | InChI=1S/C10H16O4S.C9H10BrN/c1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14;10-8-2-1-6-4-9(11)5-7(6)3-8/h7H,3-6H2,1-2H3,(H,12,13,14);1-3,9H,4-5,11H2/t7-,10-;9-/m00/s1
